US07410991B2
Intermediate 8.1 tert-Butyl-dimethy-[1-(1-methyl-butyl)-prop-2-ynyloxy]-silane.
To a solution of 4-methyl-hept-1-yn-3-ol (2.53 g, 0.02 mol) in dry DMF (25 mL) were added imidazole (1.63 g, 0.024 mol) and tert-butyldimethylsilyl chloride (3.62 g, 0.024 mol). The resulting solution was stirred at RT for 18 h and then treated with saturated NH4Cl (15 mL) and EtOAc (120 mL). The organic layer was washed with saturated NH4Cl (20 mL), water (4×20 mL), brine (2×20 mL), dried over sodium sulfate, and concentrated in vacuo to afford a crude product (4.65 g, 97%), as a yellow oil, which was used in the next step without further purification. Rf 0.9 (EtOAc/hexanes 1/9); 1H NMR (CDCl3) δ 0.08 (s, 3H), 0.12 (s, 3H), 0.96-0.85 (m, 15H), 1.57-1.10 (m, 4H), 1.69-1.61 (m, 1H), 2.33 (t, J=2.20 Hz, 1H), 4.22-4.18 (m, 1H).

reactant | 4-methyl-hept-1-yn-3-ol | 0.02 mol, 2.53 g | CC(C(C#C)O)CCC | C8H14O
reactant | imidazole | 0.024 mol, 1.63 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.024 mol, 3.62 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl-dimethy-[1-(1-methyl-butyl)-prop-2-ynyloxy]-silane | 4.65 g, 97% | C(C)(C)(C)[Si](OC(C#C)C(CCC)C)(C)C | C14H28OSi
